US09301951B2
3-((3-((4-(dipropylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)-benzyl)carbamoyl)pyridin-2-yl)-4-(dipropylamino)phenyl)carbamoyl)benzylthio)-propanoate (320 mg, 0.43 mmol, 1.00 equiv) in dichloromethane (10 mL), and trifluoroacetic acid (1 mL). The resulting solution was stirred overnight at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 108 mg (30%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 9.52 (t, J=6 Hz, 1H), 8.96 (d, J=5.1 Hz, 1H), 8.27 (s, 2H), 7.85 (s, 2H), 7.74 (m, 2H), 7.53 (m, 5H), 7.02 (s, 2H), 4.61 (d, J=5.7 Hz, 2H), 3.87 (s, 2H), 3.39 (s, 4H), 2.61 (m, 2H), 2.50 (m, 2H), 1.53 (t, J=9.3 Hz, 4H), 0.89 (t, J=7.2 Hz, 6H). MS (ES, m/z): 693 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)-benzyl)carbamoyl)pyridin-2-yl)-4-(dipropylamino)phenyl)carbamoyl)benzylthio)-propanoate | 0.43 mmol, 320 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCC)CCC)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C41H47F3N4O4S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-((3-((4-(dipropylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)-pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid | 108 mg, 30% | C(CC)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C37H39F3N4O4S
